US07179934B2
(4S,5R)-3-((E)-2-Methyl-pent-2-enoyl)-4,5-diphenyl-oxazolidin-2-one
To a solution of (E)-2-methyl-2-pentenoic acid (5.3 g, 47 mmol) in 250 mL of THF at 0° C. was added 16.3 mL (117 mmol) of triethylamine, then 5.8 mL (47 mmol) of pivaloyl chloride resulting in a thick suspension. The mixture was stirred for 1 hour at 0° C. at which time 2.0 g (47 mmol) of lithium chloride was added in one portion, followed by 10 g (42 mmol) of (4S,5R)-4,5-diphenyl-2-oxazolidinone in four batches. Stirring was maintained throughout the solid additions. The reaction mixture was stirred for 1 hour at 0° C., and for 1 hour at ambient temperature, and was vacuum filtered through a coarse frit and concentrated. The residue was partitioned between EtOAc/water, and the organics were dried over MgSO4 and concentrated. To the residue was added 200 mL of MTBE and the mixture was warmed cautiously with swirling. The warm slurry was filtered to provide 13.0 g (83% yield) of the titled compound as a colorless solid: 1H NMR (CDCl3) δ 7.12 (m, 3H), 7.08 (m, 3H), 6.93 (m, 2H), 6.86 (m, 2H), 6.14 (m, 1H), 5.90 (d, J=7.8 Hz, 1H), 5.69 (d, J=7.8 Hz, 1H), 2.23 (pent, J=7.6 Hz, 2H), 1.92 (s, 3H), 1.07 (t, J=7.6 Hz, 3H). The titled acylated oxazolidinone may be used in the next step instead of (S)-3-((E)-2-Methyl-pent-2-enoyl)-4-phenyl-oxazolidin-2-one.

reactant | (E)-2-methyl-2-pentenoic acid | 47 mmol, 5.3 g | C/C(/C(=O)O)=C\CC | C6H10O2
reactant | triethylamine | 117 mmol, 16.3 mL | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 47 mmol, 5.8 mL | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | lithium chloride | 47 mmol, 2.0 g | [Cl-].[Li+]
reactant | (4S,5R)-4,5-diphenyl-2-oxazolidinone | 42 mmol, 10 g | C1(=CC=CC=C1)[C@@H]1NC(O[C@@H]1C1=CC=CC=C1)=O | C15H13NO2
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | (4S,5R)-3-((E)-2-Methyl-pent-2-enoyl)-4,5-diphenyl-oxazolidin-2-one | 13.0 g, 83% yield | C/C(/C(=O)N1C(O[C@@H]([C@@H]1C1=CC=CC=C1)C1=CC=CC=C1)=O)=C\CC | C21H21NO3
